Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Keflex / Motrin
 
Attending: ___
 
Chief Complaint:
Pneumonia
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Patient is a ___ year old woman with hx of asthma who presents 
with acute onset of shortness of breath after taking Motrin.  
After an work-out session, she felt that she pulled a muscle in 
her L lower back, tender to palpation (___), worse with 
activity.  She took ___ Motrin (cannot remember if she has taken 
before).  Within 30 min, she became flushed and SOB with 
wheezing.  She has chronic PND/rhinorrhea/nasal congestion and 
nonproductive cough from multiple environmental allergies, no 
acute changes.  She has been having chills for a couple of 
weeks.  No fevers.

She presented to ___.  She had an x-ray there, was felt 
to have pneumonia, received a dose of levofloxacin.  She was 
transferred to ___ for persistent hypoxia, requiring 4 L NC.
 
Her back pain is currently much better, rating ___ only with 
palpation.

In the ED, initial VS were: 97.1 ___ 20 97% 4L NC. Labs 
were notable for WBC 12.1, neg trop. CTA chest showed no 
evidence of pulmonary embolism or acute aortic syndromes, large 
paraesophageal hernia containing stomach in an organoaxial 
configuration, no infiltrate.  Vitals prior to transfer to the 
floor were:  98.2, 75, 118/70, 14, 96% on RA.  
 
Review of Systems:  
(+) Per HPI  
(-) Denies fever, night sweats. Denies headache. Denies chest 
pain or tightness, palpitations. Denies nausea, vomiting, 
diarrhea, constipation, or abdominal pain. No dysuria, urinary 
frequency. Denies rashes. All other review of systems negative. 
 
Past Medical History:
Asthma
Environmental allergies
Hypertension
GERD
Depression/anxiety
 
Social History:
___
Family History:
No family history of lung problems.
 
Physical Exam:
97.5, 153/74, 68, 18, 98RA
Gen: NAD, AOX3  
HEENT: PERRL, EOMI, MMM, sclera anicteric, not injected, nasal 
mucosa boggy and edematous without purlence, no sinus tenderness 
 
Neck: no LAD, no JVD  
Cardiovascular: RRR normal s1, s2, no murmurs appreciated  
Respiratory: Clear to auscultation bilaterally, good airway 
movement, no wheezes or rhonchi  
Abd: normoactive bowel sounds, soft, non-tender, non distended 
Back:  tender L lumbar area
Extremities: No edema, 2+ DP pulses  
NEURO: PERRL, EOMI, face symmetric, no tongue deviation  
Integument: Warm, moist, no rash or ulceration  
Psychiatric: appropriate, pleasant, not anxious  

 
Pertinent Results:
Admission labs:
___ 10:00PM   WBC-12.1* RBC-4.66 HGB-13.7 HCT-40.8 MCV-88 
MCH-29.4 MCHC-33.6 RDW-13.4
___ 10:00PM   NEUTS-85.4* LYMPHS-9.9* MONOS-2.6 EOS-1.8 
BASOS-0.4
___ 10:00PM   PLT COUNT-234
___ 10:00PM   GLUCOSE-131* UREA N-19 CREAT-0.7 SODIUM-138 
POTASSIUM-3.8 CHLORIDE-104 TOTAL CO2-24 ANION GAP-14
___ 10:28PM   LACTATE-2.9*
___ 10:00PM   D-DIMER-1837*
___ 10:00PM   cTropnT-<0.01

CTA CHEST W&W/O C&RECONS, NON-CORONARY Study Date of 
___:
No evidence of pulmonary embolism or acute aortic syndromes. 
Large 
paraesophageal hernia containing stomach in an organoaxial 
configuration. 
 
Brief Hospital Course:
___ year old woman with a history of asthma who presented with 
acute onset of shortness of breath after taking Motrin. This 
resolved the following day.  This was most likely an allergic 
reaction to Motrin with acute asthma attack. She had no 
infiltrate or PE on CTA chest or ischemic changes on EKG.  She 
was treated conservatively and discharged home after education 
about NSAID induced asthma or allergies. She was provided with 
the list below:

Aspirin (Anacin, Ascriptin, ___, Bufferin, Ecotrin, Excedrin)
Choline and magnesium salicylates (CMT, Tricosal, Trilisate)
Choline salicylate (Arthropan)
Celecoxib (Celebrex)
Diclofenac potassium (Cataflam)
Diclofenac sodium (Voltaren, Voltaren XR)
Diclofenac sodium with misoprostol (Arthrotec)
Diflunisal (Dolobid)
Etodolac (Lodine, Lodine XL)
Fenoprofen calcium (Nalfon)
Flurbiprofen (Ansaid)
Ibuprofen (Advil, Motrin, Motrin IB, Nuprin)
Indomethacin (Indocin, Indocin SR)
Ketoprofen (Actron, Orudis, Orudis KT, Oruvail)
Magnesium salicylate (Arthritab, ___ Select, ___ Pills, 
___, Mobidin, Mobogesic)
Meclofenamate sodium (Meclomen)
Mefenamic acid (Ponstel)
Meloxicam (Mobic)
Nabumetone (Relafen)
Naproxen (Naprosyn, Naprelan*)
Naproxen sodium (Aleve, Anaprox)
Oxaprozin (Daypro)
Piroxicam (Feldene)
Rofecoxib (Vioxx)
Salsalate (Amigesic, Anaflex ___, Disalcid, Marthritic, 
Mono-Gesic, Salflex, Salsitab)
Sodium salicylate (various generics)
Sulindac (Clinoril)
Tolmetin sodium (Tolectin)
Valdecoxib (Bextra)

 
Medications on Admission:
Advair 500/50
Proair inhaler
Nexium 40 mg daily
Fexofenadine 180 daily
Detrol LA 4 mg daily
Iron daily
Avapro 150 mg daily
Sertraline 200 mg daily
Fluticasone nasal spray
Calcium and vitamin D
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
NSAID allergies
Acute asthma from NSAID

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You had NSAID induced asthma attack so you are ALLERGIC to NSAID 
medications:
 
NSAIDs : non-steroidal anti-inflammatory drugs
 

Aspirin (Anacin, Ascriptin, ___, Bufferin, Ecotrin, Excedrin)
Choline and magnesium salicylates (CMT, Tricosal, Trilisate)
Choline salicylate (Arthropan)
Celecoxib (Celebrex)
Diclofenac potassium (Cataflam)
Diclofenac sodium (Voltaren, Voltaren XR)
Diclofenac sodium with misoprostol (Arthrotec)
Diflunisal (Dolobid)
Etodolac (Lodine, Lodine XL)
Fenoprofen calcium (Nalfon)
Flurbiprofen (Ansaid)
Ibuprofen (Advil, Motrin, Motrin IB, Nuprin)
Indomethacin (Indocin, Indocin SR)
Ketoprofen (Actron, Orudis, Orudis KT, Oruvail)
Magnesium salicylate (Arthritab, ___ Select, ___ Pills, 
___, Mobidin, Mobogesic)
Meclofenamate sodium (Meclomen)
Mefenamic acid (Ponstel)
Meloxicam (Mobic)
Nabumetone (Relafen)
Naproxen (Naprosyn, Naprelan*)
Naproxen sodium (Aleve, Anaprox)
Oxaprozin (Daypro)
Piroxicam (Feldene)
Rofecoxib (Vioxx)
Salsalate (Amigesic, Anaflex ___, Disalcid, Marthritic, 
Mono-Gesic, Salflex, Salsitab)
Sodium salicylate (various generics)
Sulindac (Clinoril)
Tolmetin sodium (Tolectin)
Valdecoxib (Bextra)

 
Followup Instructions:
___